US20010009911A1
Step 1 : 1,1-Bis(2-hydroxyethyl)-3-phenylurea
0.163 mol of diethanolamine dissolved in 160 ml of dichloromethane is added, at 10° C, to a solution of 0.168 mol of phenyl isocyanate. After reacting for 1 hour at 10° C. and then for 12 hours at ambient temperature, the reaction mixture is concentrated under reduced pressure.

reactant | diethanolamine | 0.163 mol | N(CCO)CCO | C4H11NO2
reactant | phenyl isocyanate | 0.168 mol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 1,1-Bis(2-hydroxyethyl)-3-phenylurea | OCCN(C(=O)NC1=CC=CC=C1)CCO | C11H16N2O3
